US05233035
After 1.0 g (1.6 mmol) of (Z)-2-(2-tritylaminothiazol-4-yl)-[[(tert-butoxycarbonyl)(3-pyridyl)methoxy]imino]acetic acid and 0.37 g (1.77 mmol) of phosphorus pentachloride were added to 25 ml of dichloromethane, the mixture was stirred at 5° C. for 30 minutes. The resulting solution was dropwise added to a solution containing 0.65 g (1.6 mmol) of p-methoxybenzyl 7-amino-3-chloromethyl-3-cephem-4-carboxylate hydrochloride and 1.3 ml of pyridine in 30 ml of dichloromethane. After stirring for an hour below -20° C., the solution was cooled to -40° C. After adding 50 ml of 1N hydrochloric acid, the temperature was reverted to room temperature. The dichloromethane layer was taken out, washed with saturated sodium chloride aqueous solution and dried over anhydrous magnesium sulfate. The solvent was distilled off and the residue was subjected to silica gel column chromatography. The column was eluted with dichloromethane-methanol (10:1) to give 0.90 g (57.7%) of p-methoxybenzyl 7β-[(Z)-2-(2-tritylamino-4-thiazolyl)-2-[[(R S)-(tert-butoxycarbonyl)(3-pyridyl)methoxy]imino]acetamido]-3-chloromethyl-3-cephem-4-carboxylate.

reactant | (Z)-2-(2-tritylaminothiazol-4-yl)-[[(tert-butoxycarbonyl)(3-pyridyl)methoxy]imino]acetic acid | 1.6 mmol, 1.0 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)O)=N/OC(C=1C=NC=CC1)C(=O)OC(C)(C)C | C35H32N4O5S
reactant | phosphorus pentachloride | 1.77 mmol, 0.37 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | p-methoxybenzyl 7-amino-3-chloromethyl-3-cephem-4-carboxylate hydrochloride | 1.6 mmol, 0.65 g | Cl.NC1[C@@H]2N(C(=C(CS2)CCl)C(=O)OCC2=CC=C(C=C2)OC)C1=O
reactant | hydrochloric acid | 1N, 50 ml | Cl | ClH
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | pyridine | 1.3 ml | N1=CC=CC=C1 | C5H5N
product | p-methoxybenzyl 7β-[(Z)-2-(2-tritylamino-4-thiazolyl)-2-[[(R S)-(tert-butoxycarbonyl)(3-pyridyl)methoxy]imino]acetamido]-3-chloromethyl-3-cephem-4-carboxylate | 0.90 g, 57.7% | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CCl)C(=O)OCC2=CC=C(C=C2)OC)C1=O)=N/OC(C=1C=NC=CC1)C(=O)OC(C)(C)C | C51H47ClN6O8S2
